US06967196B1
To a solution of 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-3-azidopropyl]benzenesulfonamide (0.144 g, 3.59 mmol) in THF (35 mL) was added lithium aluminum hydride (7.16 mL, 1 M in THF) at 0° C. under nitrogen atmosphere. The resulting mixture was allowed to stir at 0° C. for 1 h w and subsequently treated by successive dropwise addition of 0.272 mL of water, 0.272 mL of 15% sodium hydroxide solution, and 0.816 mL of water. The mixture was concentrated under reduced pressure. Silica gel chromatography (3:10 ethyl acetate:hexanes) of the concentrate afforded 1.12 g of 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-3-aminopropyl]benzenesulfonamide as a light brown oil in 97% yield.

reactant | 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-3-azidopropyl]benzenesulfonamide | 3.59 mmol, 0.144 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCN=[N+]=[N-])C)C1=C(C=CC(=C1)F)F | C16H15ClF2N4O2S
reactant | lithium aluminum hydride | 1 M, 7.16 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.272 mL | O | H2O
reactant | sodium hydroxide | 0.272 mL | [OH-].[Na+]
reactant | water | 0.816 mL | O | H2O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-3-aminopropyl]benzenesulfonamide | 1.12 g, 97% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCN)C)C1=C(C=CC(=C1)F)F | C16H17ClF2N2O2S
